** Name: OpAmp4

.MACRO OpAmp4 gnd vdd in1 in2 outFirstStage1 vbBias vbLoad1 vbLoad2
mL22 outFirstStage2 outFirstStage2 innerLoad2 innerLoad2 pmos4 L=1e-6 W=293e-6
mL24 innerLoad2 innerLoad2 vdd! vdd! pmos4 L=1e-6 W=413e-6
mBOBias vbBias vbBias vdd! vdd! pmos4 L=1e-6 W=11e-6
mL11 dpDrain1 vbLoad1 gnd! gnd! nmos4 L=1e-6 W=344e-6
mL12 dpDrain2 vbLoad1 gnd! gnd! nmos4 L=1e-6 W=344e-6
mL13 outFirstStage1 vbLoad2 dpDrain1 dpDrain1 nmos4 L=1e-6 W=34e-6
mL14 outFirstStage2 vbLoad2 dpDrain2 dpDrain2 nmos4 L=1e-6 W=34e-6
mT11 dpDrain1 in1 dpSource dpSource pmos4 L=1e-6 W=554e-6
mT12 dpDrain2 in2 dpSource dpSource pmos4 L=1e-6 W=554e-6
mB11 dpSource vbBias vdd! vdd! pmos4 L=1e-6 W=592e-6
mL23 innerLoad1 innerLoad2 vdd! vdd! pmos4 L=1e-6 W=413e-6
mL21 outFirstStage1 outFirstStage2 innerLoad1 innerLoad1 pmos4 L=1e-6 W=293e-6
cl outFirstStage1 gnd! 20e-12
.EOM OpAmp4

** Expected Performance Values: 
** Gain: 83 dB
** Power consumption: 6.60201 mW
** Area: 3879 (mu_m)^2
** Transit frequency: 26.0661 MHz
** Transit frequency with error factor: 26.0661 MHz
** Slew rate: 19.0462 V/mu_s
** Phase margin: 88.2356°
** CMRR: 134 dB
** VoutMax: 3.94001 V
** VoutMin: 0.510001 V
** VcmMax: 4.04001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** mB11: -5.45791e+08 muA
** mBOBias: -9.99899e+06 muA
** mL11: 6.55193e+08 muA
** mL12: 6.55193e+08 muA
** mL13: 3.82296e+08 muA
** mL14: 3.82296e+08 muA
** mL21: -3.82295e+08 muA
** mL22: -3.82295e+08 muA
** mL23: -3.82296e+08 muA
** mL24: -3.82296e+08 muA
** mT11: -2.72895e+08 muA
** mT12: -2.72895e+08 muA


** Expected Voltages: 
** dpDrain1: 0.150001  V
** dpDrain2: 0.150001  V
** dpSource: 3.23001  V
** gnd!: 0  V
** in1: 2.5  V
** in2: 2.5  V
** innerLoad1: 4.20601  V
** innerLoad2: 4.20801  V
** outFirstStage1: 2.5  V
** outFirstStage2: 3.37301  V
** vbBias: 4.21001  V
** vbLoad1: 0.555001  V
** vbLoad2: 0.918001  V
** vdd!: 5  V


.END